US05808080
2-Tetralone-6-carboxylic acid, ethylene ketal (395 mg, 2.07 mmol) was codissolved in CH2Cl2 (50 mL) with N-hydroxysuccinimide (260 mg, 2.76 mmol) at 0° C. and treated with a slight excess of 1,3-dicyclohexylcarbodiimide (502 mg, 2.50 mmol). The mixture was allowed to warm to ambient temperature over 30 minutes, during which time a fine white precipitate formed. Morpholine (0.91 mL, 10.4 mmol, d=0.998) was added and the solution stirred at ambient temperature for 16 hours. The suspended urea was filtered away and the solution concentrated in vacuo to a colorless oil. The oil was applied to a silica flash chromatography column and eluted with 50-100% EtOAc in hexanes to yield 323 mg (51%) of 2-tetralone-6-morpholinamide, ethylene ketal as a slowly crystallizing solid, clean by NMR, TLC.

reactant | 2-Tetralone-6-carboxylic acid | C1C(CCC2=CC(=CC=C12)C(=O)O)=O | C11H10O3
reactant | N-hydroxysuccinimide | 2.76 mmol, 260 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 2.50 mmol, 502 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Morpholine | 10.4 mmol, 0.91 mL | N1CCOCC1 | C4H9NO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-tetralone 6-morpholinamide | 323 mg, 51% | C1C(CCC2=CC=CC=C12)=O.N1CCOC(C1)C(=O)N | InChI=1S/C10H10O.C5H10N2O2/c11-10-6-5-8-3-1-2-4-9(8)7-10;6-5(8)4-3-7-1-2-9-4/h1-4H,5-7H2;4,7H,1-3H2,(H2,6,8)
